US07750150B2
(3) Preparation of 3-tert-butoxycarbonylamino-2,6-dimethyl-4-trifluoromethylpyridine
2,6-Dimethyl-4-trifluoromethylpyridine-3-carboxylic acid hydrochloride (23.17 g, 90.6 mmol) was suspended in tert-butanol (175 mL), and subsequent to the addition of Diphenylphosphorylazide (DPPA) (35.25 g, 128.1 mmol) and triethylamine (31.36 g, 309.9 mmol), the suspension was subjected to heating under reflux for 3 hours. Water (100 mL) was added to the reaction mixture, followed by extraction from chloroform. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (silica gel: 400 g; developer: hexane:acetone=10:1) to obtain the title compound (18.01 g, 68%) as a pale yellow oil.

reactant | 2,6-Dimethyl-4-trifluoromethylpyridine-3-carboxylic acid hydrochloride | 90.6 mmol, 23.17 g | Cl.CC1=NC(=CC(=C1C(=O)O)C(F)(F)F)C
reactant | Diphenylphosphorylazide | 128.1 mmol, 35.25 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 309.9 mmol, 31.36 g | C(C)N(CC)CC | C6H15N
reactant | Water | 100 mL | O | H2O
reactant | tert-butanol | 175 mL | C(C)(C)(C)O | C4H10O
product | 3-tert-butoxycarbonylamino-2,6-dimethyl-4-trifluoromethylpyridine | 18.01 g, 68% | C(C)(C)(C)OC(=O)NC=1C(=NC(=CC1C(F)(F)F)C)C | C13H17F3N2O2
